US05155123
Preparation of 1-benzyl-2-(cyanoimino)pyridine
7 g (50 mmole) of potassium carbonate and 6.5 ml (55 mmole) of benzyl bromide are weighted to the suspension of 6 g (50 mmole) of 2-(cyanoamino)pyridine in 100 ml of acetone, then the reaction mixture is refluxed under vigorous stirring for 2.5 hours. After cooling the inorganic salt is filtered off and the acetone filtrate is evaporated under reduced pressure. The residue is triturated with 10 ml of ether, filtered and washed twice with 5 ml of ether each to obtain 5.55 g (53.1%) of the named compound, m.p.: 142° C.

reactant | potassium carbonate | 50 mmole, 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 55 mmole, 6.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-(cyanoamino)pyridine | 50 mmole, 6 g | C(#N)NC1=NC=CC=C1 | C6H5N3
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-benzyl-2-(cyanoimino)pyridine | 5.55 g, 53.1% | C(C1=CC=CC=C1)N1C(C=CC=C1)=NC#N | C13H11N3
